US05650428
The procedure described in Example 177 was repeated, except that (RS)-2-(4-chlorobenzenesulfonylamino)-4-methylthiobutanoic acid (1.03 g) and methyl 4-aminophenylpropionate hydrochloride (617.4 mg) were condensed in chloroform (30 ml) in the presence of triethylamine (1.76 ml) and 1-methyl-2-chloropyridinium iodide (975.2 mg) to obtain as a colorless oil (RS)-2-(4-chlorobenzenesulfonylamino)-N-(4-(2-methoxycarbonylethyl)phenyl)-4-methylthiobutanamide (177.1 mg).

reactant | (RS)-2-(4-chlorobenzenesulfonylamino)-4-methylthiobutanoic acid | 1.03 g | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=S)O)CCC | C11H14ClNO3S2
reactant | methyl 4-aminophenylpropionate hydrochloride | 617.4 mg | Cl.NC1=CC=C(C=C1)C(C(=O)OC)C
reactant | triethylamine | 1.76 ml | C(C)N(CC)CC | C6H15N
reactant | 1-methyl-2-chloropyridinium iodide | 975.2 mg | [I-].C[N+]1=C(C=CC=C1)Cl
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | (RS)-2-(4-chlorobenzenesulfonylamino)-N-(4-(2-methoxycarbonylethyl)phenyl)-4-methylthiobutanamide | 177.1 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=S)NC1=CC=C(C=C1)CCC(=O)OC)CCC | C21H25ClN2O4S2
